US06358980B1
Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(trifluoromethyl)sulfonyl]-4-piperidinecarboxylate
To a solution of 4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester (350 mg, 0.90 mmol) in chloroform (10 ml) was added triethylamine (182 mg, 1.81 mmol), trifluoromethanesulfonyl chloride (0.125 ml, 1.17 mmol) followed by a catalytic amount of dimethylaminopyridine. The resulting mixture was stirred for 15 hours at room temperature, quenched with water and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and concentrated to give 245 mg (56%) of the product as a solid. HR-MS: m/z Calculated for C18H20F3NO7S2 484.0706; Found 484.0700.

reactant | 4-(4-but-2-ynyloxy-benzenesulfonyl)-piperidine-4-carboxylic acid methyl ester | 0.90 mmol, 350 mg | COC(=O)C1(CCNCC1)S(=O)(=O)C1=CC=C(C=C1)OCC#CC | C17H21NO5S
reactant | triethylamine | 1.81 mmol, 182 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonyl chloride | 1.17 mmol, 0.125 ml | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-[(trifluoromethyl)sulfonyl]-4-piperidinecarboxylate | 245 mg, 56% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)S(=O)(=O)C(F)(F)F)C(=O)OC | C18H20F3NO7S2
